Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Coronary angiogram s/p DES x1 to OM on ___

 
History of Present Illness:
___ with HLD, current tobacco use, obesity, and anxiety who
presents with several weeks of intermittent chest pain. She
states that the pain is achy and at first localized to her R
shoulder, radiating to her R upper chest; since 2 days PTA, the
pain has now involved the L shoulder, upper chest, and side of
the neck. The pain was initially exertional (resolved within 1
hour after activity) but is now also present at rest. She also
reports a feeling that she has to go to the bathroom. No
associated SOB, lightheadedness/dizziness, syncope, diaphoresis,
nausea, vomiting. She states that SL nitro does not improve her
symptoms. Has not tried any other medications for the pain.

Of note, she underwent stress EKG on ___, during which she
experienced right-sided non-pleuritic chest tightness with EKG
showing 1mm horizontal ST depression in leads II, III, aVF, 
V2-V6
(with ~___levation in aVR). She then underwent stress echo
on ___, showing borderline LVH, LVEF 60%, no RWMA's. She
developed R-sided chest pain at 80% of maximal HR that was
initially reproducible. EKG showed slight upsloping of the ST
segments in II, III, aVF, V4-V6 at peak exercise. At rest, she
developed 1-___epressions in II, III, aVF, and
V4-V6. She was given SL nitro, which resolved her symptoms. Echo
images were normal.

She presented to OSH on ___ with chest pain, where trops were
neg, and EKG was normal. She was transferred to ___ for 
further
eval and plan for catheterization on ___ but left AMA
yesterday. She returned this afternoon due to recurrent 
symptoms.

In the ED, initial vitals were T 96.3, HR 80, BP 154/87, SpO2
100% on RA. EKG demonstrated sinus rhythm with no evidence of ST
changes, TWI's, or Q waves. Labs were unremarkable; trops were
negative. UA with large leuks, few bacteria. She was given ASA 
81
mg x2 and SL nitro x1.
 
On the floor, she reported residual L-sided chest and upper arm
pain. No palpitations, SOB, N/V, diaphoresis,
dizziness/lightheadedness. No fever/chills, night sweats, cough,
congestion, abdominal pain, dysuria, rash, myalgias.

 
Past Medical History:
1. CARDIAC RISK FACTORS
- Dyslipidemia  
- Obesity

2. CARDIAC HISTORY  
- CABG: None
- PERCUTANEOUS CORONARY INTERVENTIONS: None
- PACING/ICD: None

3. OTHER PAST MEDICAL HISTORY
Tobacco use disorder
Anxiety

 
Social History:
___
Family History:
Mother with DM, HTN, PE. Father with COPD. No known h/o MI/CAD,
CHF, arrhythmias, sudden death.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
GENERAL: Well-developed, well-nourished, obese. NAD. Mood, 
affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with flat JVP.  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills,
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No ___ edema
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM:
========================
GENERAL: Well-developed, well-nourished, obese. NAD. Mood, 
affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma. +TTP over
L neck.
NECK: Supple with flat JVP.
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills,
lifts. No carotid bruits.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi. No TTP over L shoulder site.
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No ___ edema
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

 
Pertinent Results:
ADMISSION LABS:
===============
___ 01:30AM BLOOD WBC-9.6 RBC-4.58 Hgb-13.0 Hct-39.4 MCV-86 
MCH-28.4 MCHC-33.0 RDW-14.6 RDWSD-45.0 Plt ___
___ 01:30AM BLOOD Glucose-86 UreaN-12 Creat-0.8 Na-139 
K-4.2 Cl-102 HCO3-24 AnGap-13
___ 01:30AM BLOOD cTropnT-<0.01
___ 08:42AM BLOOD CK-MB-2
___ 08:42AM BLOOD cTropnT-<0.01
___ 05:27PM BLOOD cTropnT-<0.01
___ 07:55AM BLOOD Calcium-10.1 Phos-4.7* Mg-2.1 
Cholest-205*
___ 07:55AM BLOOD Triglyc-190* HDL-29* CHOL/HD-7.1 
LDLcalc-138*
___ 07:55AM BLOOD %HbA1c-5.7 eAG-117

STUDIES:
========
Procedure
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is mild diffuse disease 
noted in the mid segment
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel.
The Obtuse Marginal, arising from the mid segment, is a medium 
caliber vessel. There is a 90% stenosis in the proximal segment.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. There is a 30% stenosis in the mid 
segment.
The SinoAtrial, arising from the proximal segment, is a small 
caliber vessel.
The Right Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel.
The Right Posterolateral Artery, arising from the distal 
segment, is a medium caliber vessel.

Recommendations
• Dual anti plt RX with ASA and Plavix for a min of ___ year
• Aggressive secondary risk factor modification

DISCHARGE LABS:
===============
___ 07:55AM BLOOD WBC-8.6 RBC-4.44 Hgb-12.3 Hct-39.9 MCV-90 
MCH-27.7 MCHC-30.8* RDW-14.4 RDWSD-46.9* Plt ___
___ 07:55AM BLOOD Glucose-109* UreaN-14 Creat-0.8 Na-142 
K-4.5 Cl-103 HCO3-24 AnGap-___ woman with dyslipidemia, possible familial 
hypercholesterolemia, current tobacco use (13-pack-year 
history), obesity, and anxiety who presents with several weeks 
of intermittent atypical chest and shoulder pain initially with 
exertion and now at rest, with ETT showing diffuse ST changes, 
concerning for unstable angina. She underwent coronary angiogram 
demonstrating 90% stenosis of the proximal obtuse marginal 
artery with placement of one drug-eluting stent to the OM. She 
was also noted to have 30% stenosis of the RCA. She was 
discharged on ASA/Plavix, Rosuvastatin, zetia, and metoprolol 
succinate. She will have close cardiology follow-up for 
consideration of PSK-9 inhibition.

ACUTE ISSUES:
=============
#Atypical chest pain
#Unstable angina
Ms. ___ reports about one month of achy chest pain that was 
first localized to her right shoulder, radiating to her right 
upper chest, and then involved her left shoulder, chest wall, 
and side of the neck. The pain was initially exertional and 
would resolve within one hour after activity; however, it 
progressed to being present at rest as well. Given her 
significant risk factors of current tobacco use (13-pack-year 
history), obesity, and familial hypercholesterolemia (not on a 
statin until very recently), she underwent stress EKG on ___ and 
stress echo on ___, both of which showed EKG changes concerning 
for diffuse ischemia; she also experienced right-sided chest 
tightness and pain with exercise that resolved with rest. She 
initially presented to OSH with recurrent chest pain and was 
transferred to ___ for further evaluation. At ___, trops 
were negative x3, and EKG showed no ischemic changes. She 
underwent coronary angiogram on ___ demonstrating 90% stenosis 
of the proximal obtuse marginal artery and 30% stenosis of the 
RCA. A drug-eluting stent was placed in the OM. She was started 
on aspirin 81 mg daily and Plavix 75 mg daily with plan to 
continue dual anti-platelet therapy for a minimum 12 months per 
Interventional Cardiology. She was also switched to rosuvastatin 
40 mg at bedtime and continued on metoprolol succinate 50 mg at 
bedtime.

#Dyslipidemia
#Possible familial hypercholesterolemia
On admission, patient's lipid panel was significant for 
cholesterol 205, LDL 138, HDL 29, triglycerides 190 (prior 
cholesterol in ___ was 336). She was switched to rosuvastatin 
as above and started on ezitimibe 10 mg at bedtime. Please 
consider starting a PCSK-9 inhibitor pending LDL improvement on 
statin/Zetia.

#Tobacco use
Patient was counseled around the risks of continued tobacco use 
especially given her early coronary artery disease. She was 
discharged with nicotine patches and gum, continued on 
bupropion, and provided with smoking cessation resources.

CHRONIC ISSUES:
===============
#Anxiety - continued on lorazepam 0.5 mg at bedtime as needed

TRANSITIONAL ISSUES:
====================
- Patient to have cardiology follow-up for consideration of 
PCSK-9 inhibitor for dyslipidemia depending on response to 
statin/Zetia

MEDICATIONS CHANGES:
====================
START Zetia 10 mg at bedtime
START rosuvastatin 40 mg at bedtime
START nicotine patch, gum
STOP atorvastatin

Contact: ___ (mom), ___
Full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. BuPROPion 150 mg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
1.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
2.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0 
3.  Ezetimibe 10 mg PO QHS 
RX *ezetimibe 10 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
4.  Nicotine Patch 21 mg TD DAILY 
RX *nicotine 21 mg/24 hour  once a day Disp #*21 Patch 
Refills:*0 
5.  Nicotine Polacrilex 2 mg PO Q2H:PRN craving 
RX *nicotine (polacrilex) [Nicorette] 2 mg One dose every ___ 
hrs for wks ___, every ___ hrs for wks ___, every ___ hrs for 
wks ___. Don't exceed 24 doses/24 hrs. every ___ hours Disp 
#*600 Gum Refills:*0 
6.  Rosuvastatin Calcium 40 mg PO QPM 
RX *rosuvastatin [Crestor] 40 mg 1 tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0 
7.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0 
8.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 ================================================  
 DISCHARGE WORKSHEET TEMPLATE  
 ================================================  
 Dear Ms. ___,

 It was a pleasure caring for you at ___.  

 WHY WAS I IN THE HOSPITAL?  
 ==========================  
 - You were admitted because you had chest pain 

 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
  - Your heart arteries were examined (cardiac catheterization) 
which showed a blockage of one of the arteries. This was opened 
by placing a tube called a stent in the artery. You were given 
medications to prevent future blockages.
 
 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================  
 - It is very important to take your aspirin and clopidogrel 
(also known as Plavix) every day.  
 - These two medications keep the stent in the heart vessel open 
and help reduce your risk of having a future heart attack.
 - If you stop these medications or miss ___ dose, you risk 
causing a blood clot forming in your heart stent and having 
another heart attack. 
 - Please do not stop taking either medication without talking 
to your heart doctor.
 - You are also on other medications to help your heart, such as 
rosuvastatin, zetia, and metoprolol.

 Thank you for allowing us to be involved in your care, we wish 
you all the best!  
 Your ___ Healthcare Team
 
Followup Instructions:
___